US06235778B1
c) 3-[5-Methyl-3-(2-(N-methyl-N-(2-(N,N-dimethylamino)ethyl)aminosulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine hydrochloride
A mixture of 3-[5-methyl-3-(2-(N-methyl-N-(2-(N,N-dimethylamino)ethyl)aminosulfonyl)phenylsulfonyloxy)phenoxy]propoxyamine (94 mg, 0.19 mmol) and 1H-pyrazole-1-carboxamidine hydrochloride (57 mg, 0.39 mmol), in N,N-dimethylformamide (8 mL) was stirred at room temperature for 18 hours then concentrated in vacuo. The residue was dissolved in acetonitrile, filtered, and the filtrate concentrated to an oil. This was dissolved in dilute HCl (pH 3), washed with diethyl ether, basified with aqueous NaHCO3, and extracted with CH2Cl2. The CH2Cl2 layer was washed with pH 7 buffer and brine, dried over Na2SO4 and filtered. The filtrate was acidified with HCl-methanol and concentrated giving the title compound as a white solid (100 mg, 92%). 1H NMR (300 MHz, CDCl3) δ8.20 (m, 2H), 7.93 (td, 1H, J=7.7, 1.4 Hz), 7.78 (td, 1H, J=7.7, 1.2 Hz), 6.62 (m, 2H), 6.51 (t, 1H, J=2.2 Hz), 4.05 (t, 2H, J=6.1 Hz), 3.99 (t, 2H, J=6.0 Hz), 3.87 (t, 2H, J=6.9 Hz), 3.44 (t, 2H, J=6.9 Hz), 3.04 (s, 3H), 2.96 (s, 6H), 2.27 (s, 3H), 2.10 (m, 2H). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C22H33N5O7S2: 544.2 (M+H). Found: 544.0.

reactant | 3-[5-methyl-3-(2-(N-methyl-N-(2-(N,N-dimethylamino)ethyl)aminosulfonyl)phenylsulfonyloxy)phenoxy]propoxyamine | 0.19 mmol, 94 mg | CC=1C=C(C=C(OCCCON)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N(CCN(C)C)C | C21H31N3O7S2
reactant | 1H-pyrazole-1-carboxamidine hydrochloride | 0.39 mmol, 57 mg | Cl.N1(N=CC=C1)C(=N)N
solvent | N,N-dimethylformamide | 8 mL | CN(C=O)C | C3H7NO
product | 3-[5-Methyl-3-(2-(N-methyl-N-(2-(N,N-dimethylamino)ethyl)aminosulfonyl)phenylsulfonyloxy)phenoxy]propoxyguanidine hydrochloride | 100 mg, 92% | Cl.CC=1C=C(C=C(OCCCONC(=N)N)C1)OS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N(CCN(C)C)C | InChI=1S/C22H33N5O7S2.ClH/c1-17-14-18(32-12-7-13-33-25-22(23)24)16-19(15-17)34-36(30,31)21-9-6-5-8-20(21)35(28,29)27(4)11-10-26(2)3;/h5-6,8-9,14-16H,7,10-13H2,1-4H3,(H4,23,24,25);1H
